US04355037
6-Methoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide
To 30 ml of a saturated solution of hydrogen bromide and acetic acid was added, with stirring, 0.88 g of 4-(6-methoxy-1,2-benzisoxazol-3-yl)-1-piperidine carboxylic acid phenylmethyl ester. The reaction was stirred at ambient temperature for 55 min. The resultant solid was collected, washed with ether and dried to yield 0.5 g (79.8%) of product. Recrystallization from methanol gave the analytical sample, mp 258°-260°.

reactant | hydrogen bromide | Br | BrH
reactant | 4-(6-methoxy-1,2-benzisoxazol-3-yl)-1-piperidine carboxylic acid phenylmethyl ester | 0.88 g | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)C1=NOC2=C1C=CC(=C2)OC | C21H22N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Methoxy-3-(4-piperidyl)-1,2-benzisoxazole hydrobromide | 0.5 g, 79.8% | Br.COC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | InChI=1S/C13H16N2O2.BrH/c1-16-10-2-3-11-12(8-10)17-15-13(11)9-4-6-14-7-5-9;/h2-3,8-9,14H,4-7H2,1H3;1H
